US04396770
1-[3-(6-Fluoro-1,2-benzisoxazol-3-yl)propyl]-4-hydroxy-4-(4-trifluoromethylphenyl)piperidine
To a suspension of 1.2 g of magnesium shavings and a few drops of dibromoethane in 30 ml of ether was added a solution of 10.3 g of 4-bromobenzotrifluoride in 20 ml of ether at such a rate so as to maintain reflux of the mixture. After the addition was complete, the mixture was diluted with 35 ml of tetrahydrofuran, and a solution of 6.3 g of 1-[3-(6-fluoro-1,2-benzisoxazol-3-yl)propyl]-4-piperidone in 50 ml of tetrahydrofuran was slowly added. After one hr, the mixture was diluted with ether, poured into 400 ml of saturated ammonium chloride solution and extracted with ether. The organic extracts were washed with water (2×), saturated sodium chloride solution and dried over anhydrous magnesium sulfate, filtered and concentrated. Trituration with hexane/ether gave 7 g (73%) of product, mp 150°-152° C. Recrystallization from ether gave the analytical sample, mp 152°-153° C.

reactant | magnesium | 1.2 g | [Mg] | Mg
reactant | 4-bromobenzotrifluoride | 10.3 g | BrC1=CC=C(C=C1)C(F)(F)F | C7H4BrF3
reactant | 1-[3-(6-fluoro-1,2-benzisoxazol-3-yl)propyl]-4-piperidone | 6.3 g | FC1=CC2=C(C(=NO2)CCCN2CCC(CC2)=O)C=C1 | C15H17FN2O2
reactant | ammonium chloride | 400 ml | [Cl-].[NH4+]
catalyst | dibromoethane | a few drops | BrC(C)Br | C2H4Br2
solvent | ether | 30 ml | CCOCC | C4H10O
solvent | ether | 20 ml | CCOCC | C4H10O
solvent | tetrahydrofuran | 35 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 1-[3-(6-Fluoro-1,2-benzisoxazol-3-yl)propyl]-4-hydroxy-4-(4-trifluoromethylphenyl)piperidine | 7 g, 73% | FC1=CC2=C(C(=NO2)CCCN2CCC(CC2)(C2=CC=C(C=C2)C(F)(F)F)O)C=C1 | C22H22F4N2O2
